US08669266B2
(vi) 4-[(S)-3-tert-Butoxycarbonyl-2-({4-[2-((S)-2-ethylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 80 mg of 4-{(S)-3-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-7-methyl-quinoline-2-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester in 8 ml of DMF, 33 mg of EDC, 32 mg of pentafluorophenol and 24 mg of NEM was added and the reaction mixture was stirred for 2 h. Then, 39 mg of (S)-Pyrrolidine-2-carboxylic acid ethylamide trifluoroacetate and 20 mg of NEM in 5 ml of DMF was added. After 1 h the reaction mixture was diluted with water. After filtration through a chem Elut® cartridge by eluting with ethyl acetate the solvents were removed under reduced pressure. The isolated crude product was pure enough for the next reaction step.

reactant | 4-{(S)-3-tert-Butoxycarbonyl-2-[(4-carboxymethoxy-7-methyl-quinoline-2-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester | 80 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C)=O | C28H36N4O9
reactant | EDC | 33 mg
reactant | pentafluorophenol | 32 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid ethylamide trifluoroacetate | 39 mg | FC(C(=O)O)(F)F.C(C)NC(=O)[C@H]1NCCC1
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[(S)-3-tert-Butoxycarbonyl-2-({4-[2-((S)-2-ethylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NCC)=O)C)=O | C35H48N6O9
